US03968240
B. Preparation of α-Chloro-O-Propionyl-4-Methylbenzaldoxime
17 g (0.1 mol) of α-chloro-4-methylbenzaldoxime prepared above was dissolved in 100 ml of benzene and 14.6 g (0.11 mol) of propionic anhydride was added to the solution followed by heating at a temperature of from 80° to 90°C. After completion of the reaction, the reaction mixture was washed with water and dried over anhydrous sodium sulfate. Benzene was removed by distillation under reduced pressure and the resulting concentrate was distilled using a vacuum pump to give 19 g of the desired compound as a liquid having a boiling point of 118° - 120°C/10 mm Hg. Yield, 84%.

reactant | α-chloro-4-methylbenzaldoxime | 0.1 mol, 17 g | ClC(C1=CC=C(C=C1)C)=NO | C8H8ClNO
reactant | propionic anhydride | 0.11 mol, 14.6 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | α-Chloro-O-Propionyl-4-Methylbenzaldoxime | 19 g | ClC(C1=CC=C(C=C1)C)=NOC(CC)=O | C11H12ClNO2
